US04326069
N-(3'-Dimethylaminopropyl)-aspartic acid-4-ethyl ester
In a manner analogous to that of Example 1, 360.3 g (2.5 mols) of maleic acid monoethyl ester are placed into the glass flask and, with cooling, 500 ml of triethylamine are added dropwise. 306.5 g (2.5 mols+20% excess) of 3-dimethylaminopropylamine are subsequently added, and the reaction mixture is reacted at 64°-90° C. for 50 minutes. The crude product is processed according to Example 1, and the yield is 568.2 g (92.3% of theory) of a white crystalline aspartic acid derivative having a melting point of 168°-169° C.

reactant | maleic acid monoethyl ester | 2.5 mols, 360.3 g | C(C)OC(\C=C/C(=O)O)=O | C6H8O4
reactant | 3-dimethylaminopropylamine | 2.5 mols, 306.5 g | CN(CCCN)C | C5H14N2
reactant | aspartic acid | yield is 568.2 g | N[C@@H](CC(=O)O)C(=O)O | C4H7NO4
solvent | triethylamine | 500 ml | C(C)N(CC)CC | C6H15N
product | N-(3'-Dimethylaminopropyl)-aspartic acid-4-ethyl ester | C(C)OC(C[C@H](NCCCN(C)C)C(=O)O)=O | C11H22N2O4
